US09290451B2
e) α,α-Dimethyl-2-oxazolemethanamine
A mixture of benzyl 2-(oxazol-2-yl)propan-2-ylcarbamate (0.63 g, 24 mmol) and palladium 10% on carbon (0.06 g) in ethanol (20 mL) was charged with hydrogen balloon and stirred at room temperature for 2 h. TLC showed the reaction was completed; it was filtered and concentrated to give a yellow oil (0.1 g, 33%); MS: m/e 127.1 [M+H]+. 1H NMR (300 MHz, CDCl3): δ 7.58 (d, 1H, J=0.6 Hz), 7.02 (s, 1H), 2.56 (bs, 4H), 1.59 (s, 6H).

reactant | benzyl 2-(oxazol-2-yl)propan-2-ylcarbamate | 24 mmol, 0.63 g | O1C(=NC=C1)C(C)(C)NC(OCC1=CC=CC=C1)=O | C14H16N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | α,α-Dimethyl-2-oxazolemethanamine | 0.1 g, 33% | CC(N)(C=1OC=CN1)C | C6H10N2O
